US09216965B2
6-(tert-Butylsulfonyl)-4-chloroquinolin-7-ol (0.81 g, 2.70 mmol), K2CO3 (1.143 g, 8.11 mmol), and 1-bromo-2-methoxyethane (0.508 ml, 5.40 mmol) in DMF (8.50 ml) were heated at 70° C. The reaction mixture cooled and partitioned between EtOAc and brine. The aqueous layer was extracted with EtOAc twice and the combined EtOAc layers were dried over Na2SO4, filtered, and concentrated. The residue was purified via Biotage (SNAP Cartridge KP Sil 25 g, 10-50% EtOAc/Hexane) to yield 6-(tert-butylsulfonyl)-4-chloro-7-(2-methoxyethoxy)quinoline (0.461 g, 1.262 mmol, 46.7% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.93 (d, J=4.55 Hz, 1H), 8.66 (s, 1H), 7.73-7.79 (m, 2H), 4.40 (dd, J=3.54, 5.31 Hz, 2H), 3.76 (dd, J=3.66, 5.18 Hz, 2H), 3.34 (s, 3H), 1.33 (s, 9H), MS: m/z: 358.1 [M+H]+.

reactant | 6-(tert-Butylsulfonyl)-4-chloroquinolin-7-ol | 2.70 mmol, 0.81 g | C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1O)Cl | C13H14ClNO3S
reactant | K2CO3 | 8.11 mmol, 1.143 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-2-methoxyethane | 5.40 mmol, 0.508 ml | BrCCOC | C3H7BrO
solvent | DMF | 8.50 ml | CN(C)C=O | C3H7NO
product | 6-(tert-butylsulfonyl)-4-chloro-7-(2-methoxyethoxy)quinoline | 1.262 mmol, 0.461 g, 46.7% yield | C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1OCCOC)Cl | C16H20ClNO4S
